US05776699
1,2,3,4-tetrahydro-1,1-dimethylnaphthalene
A mixture of P2O5 (55.3 g, 0.390 mol) in 400 ml of methanesulfonic acid was heated to 105° C. under argon until all of the solid had dissolved. The resulting solution was cooled to room temperature and 2-hydroxy-2-methyl-5-phenylpentane (63.0 g, 0.354 mol) added slowly with stirring. After 4 hours the reaction was quenched by carefully pouring the solution onto 1 L of ice. The resulting mixture was extracted with Et2O (4×125 ml) and the combined organic layers washed with water, saturated aqueous NaHCO3, water, and saturated aqueous NaCl before being dried over MgSO4. Concentration of the solution under reduced pressure, followed by distillation afforded 51.0 g (90%) of the product as a clear colorless oil, bp. 65°-67° C./1.1 mmHg. 1H NMR (CDCl3): δ7.32 (1H, d, J=7.4 Hz), 7.16-7.05 (3H, m), 2.77 (2H, t, J =6.3 Hz), 1.80 (2H, m), 1.66 (2H, m), 1.28 (6H, s).

reactant | P2O5 | 0.390 mol, 55.3 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | 2-hydroxy-2-methyl-5-phenylpentane | 0.354 mol, 63.0 g | OC(C)(CCCC1=CC=CC=C1)C | C12H18O
solvent | methanesulfonic acid | 400 ml | CS(=O)(=O)O | CH4O3S
product | 1,2,3,4-tetrahydro-1,1-dimethylnaphthalene | 51.0 g, 90% | CC1(CCCC2=CC=CC=C12)C | C12H16
